US05053426
N-[(2,2,5,5-Tetramethyl-1,3-dioxan-4-yl)carbonyl]β-alanine, methyl ester, 19
A 5.0 g portion of calcium pantothenate was slurred in 100 ml of acetone:2,2-dimethoxypropane (1:1). Trifluoroacetic acid (3.0 ml) was added until solution was complete and stirring was continued overnight. A 10 g portion of potassium carbonate was added, this mixture stirred vigorously for 10 minutes and then concentrated to a gummy solid. A 100 ml portion of acetonitrile and 10 ml of methyl iodide were added to the solid. This mixture was stirred for 1 day, then poured into water and extracted twice with ethyl acetate. The extracts were combined, dried and concentrated, giving 4.8 g of the desired compound as a yellow oil.

reactant | calcium pantothenate | C(CCNC([C@H](O)C(C)(C)CO)=O)(=O)[O-].[Ca+2].C(CCNC([C@H](O)C(C)(C)CO)=O)(=O)[O-]
reactant | Trifluoroacetic acid | 3.0 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetone 2,2-dimethoxypropane | 100 ml | CC(=O)C.COC(C)(C)OC
product | N-[(2,2,5,5-Tetramethyl-1,3-dioxan-4-yl)carbonyl]β-alanine, methyl ester | 4.8 g | CC1(OCC(C(O1)C(=O)NCCC(=O)OC)(C)C)C | C13H23NO5
